US05811389
38.6 ml of tert-butyllithium solution (1.4M in hexane) were slowly added dropwise at -78° under argon and while stirring to a solution of 11.80 g (41.6 mmol) of 10-hexyl-phenothiazine in 125 ml of abs. diethyl ether and 12.5 ml of N,N,N,N-tetramethylethylenediamine. The reaction mixture was stirred at -75° for 16 hours, brought slowly to 0°, treated with 6.92 ml (1.5 eq.) of N-formylpiperidine, stirred at 0° for 1 hour and then poured into ice, 100 ml of 0.1N hydrochloric acid solution and 250 ml of ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed on 1 kg of silica gel with ethyl acetate/hexane (1:1), whereupon 6.33 g (48.8%) of 10-hexyl-phenothiazine-4-carbaldehyde were obtained as a light yellowish oil. IR (film): 3064w, 2927m, 2854m, 2731w, 1689s, 1561m, 1455s, 1388w, 1336m, 1286m, 1259s, 1052w, 784m, 750m, 724m.

reactant | tert-butyllithium | 1.4M, 38.6 ml | C(C)(C)(C)[Li]
reactant | 10-hexyl-phenothiazine | 41.6 mmol, 11.80 g | C(CCCCC)N1C2=CC=CC=C2SC=2C=CC=CC12 | C18H21NS
reactant | N,N,N,N-tetramethylethylenediamine | 12.5 ml | CN(C)CCN(C)C | C6H16N2
reactant | N-formylpiperidine | 6.92 ml, 1.5 eq. | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | 0.1N, 100 ml | Cl | ClH
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 10-hexyl-phenothiazine-4-carbaldehyde | 6.33 g, 48.8% | C(CCCCC)N1C2=CC=CC=C2SC=2C(=CC=CC12)C=O | C19H21NOS
